US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(2,3-dimethyl-3H-imidazole-4-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 120 mg (0.30 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 3 mL DCM and 146 mg (0.66 mmol) of 5-iodo-1,2-dimethyl-1H-imidazole in 1 mL DCM with 0.34 mL 2M isopropylmagnesium chloride. Yield: 36 mg of a white powder. LC-MSD, m/z for C21H17BrN4O2 [M+H]+=437.0, 439.0; HPLC retention time: 0.4 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.30 mmol, 120 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
reactant | 5-iodo-1,2-dimethyl-1H-imidazole | 0.66 mmol, 146 mg | IC1=CN=C(N1C)C | C5H7IN2
reactant | isopropylmagnesium chloride | 2M, 0.34 mL | C(C)(C)[Mg]Cl
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(2,3-dimethyl-3H-imidazole-4-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1N(C(=NC1)C)C | C21H17BrN4O2
